US08614220B2
Step 2. 5-(1-Methyl-piperidin-4-yl)-2-trifluoromethoxy-phenylamine
A suspension of 5-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-trifluoromethoxy-phenylamine (0.3 g, 1.10 mmol), 10% Pd/C catalyst (100 mg) in EtOH (20 mL) was hydrogenated at 40 psi for 6 hours into a Parr apparatus. The mixture was filtered over a pad of celite, the solvent removed under vacuum and the crude residue purified by flash chromatography on silica gel (eluant: DCM/MeOH/NH3 95/05/005) to yield the title compound as a light brown solid (0.17 g, 56% yield).

reactant | 5-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-trifluoromethoxy-phenylamine | 1.10 mmol, 0.3 g | CN1CCC(=CC1)C=1C=CC(=C(C1)N)OC(F)(F)F | C13H15F3N2O
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-(1-Methyl-piperidin-4-yl)-2-trifluoromethoxy-phenylamine | 0.17 g, 56% yield | CN1CCC(CC1)C=1C=CC(=C(C1)N)OC(F)(F)F | C13H17F3N2O
